### PR TITLE
feat: formalise Lehmer totient

### PR DESCRIPTION
**Pull request by exekis**
hello! this PR adds the [Lehmer totient problem](https://en.wikipedia.org/wiki/Lehmer%27s_totient_problem) under `formal-conjectures/FormalConjectures/Wikipedia/LehmerTotient.lean` (closes issue #90), theorem uses sorry (unsolved question for benchmarking), included license header, import, docstrings, and @[category research open, AMS 11]. Builds with `lake build`. Please take a loot at the last commit: `feat: formalise Lehmer totient` :)

### CODE REVIEW

File: FormalConjectures/Wikipedia/LehmerTotient.lean [hunk 1]
```diff
@@ -0,0 +1,32 @@
...
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Lehmer%27s_totient_problem)
+-/
+
+
+/--
+Does there exist a composite number $n > 1$ such that Euler’s totient function $\varphi(n)$ divides $n - 1$?
+-/
+@[category research open, AMS 11]
+theorem lehmer_totient :
+    (∃ n : ℕ, 1 < n ∧ ¬Prime n ∧ Nat.totient n ∣ (n - 1)) ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerTotient.lean]: This should compile:
```suggestion
    (∃ n > 1, ¬Prime n ∧ Nat.totient n ∣ n - 1) ↔ answer(sorry) := by
```

**Review by Paul-Lez — COMMENTED** [review]
Hey @exekis, thanks for your PR! I think you've accidentally added some extra files (the Collatz and Goldbach ones) - would you mind removing them from this PR?

File: FormalConjectures/Wikipedia/LehmerTotient.lean (hunk 1 above)
Comment (exekis) [reply FormalConjectures/Wikipedia/LehmerTotient.lean]: hi @Paul-Lez! all done, thanks a lot for the review!

File: FormalConjectures/Wikipedia/LehmerTotient.lean [hunk 2]
```diff
@@ -0,0 +1,32 @@
...
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Lehmer%27s_totient_problem)
+-/
+
+
+/--
+Does there exist a composite number $n > 1$ such that Euler’s totient function $\varphi(n)$ divides $n - 1$?
+-/
+@[category research open, AMS 11]
+theorem lehmer_totient :
+    (∃ n > 1, ¬Prime n ∧ Nat.totient n ∣ n - 1) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/LehmerTotient.lean:31]:
```suggestion
    (∃ n > 1, ¬Prime n ∧ φ n ∣ n - 1) ↔ answer(sorry) := by
```

If you open the Nat namespace, this should work!

File: FormalConjectures/Wikipedia/LehmerTotient.lean [hunk 3]
```diff
@@ -0,0 +1,32 @@
+/-
+Copyright 2025 Google LLC
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/LehmerTotient.lean]:
```suggestion
Copyright 2025 The Formal Conjectures Authors.
```

File: FormalConjectures/Wikipedia/LehmerTotient.lean [hunk 4]
```diff
@@ -0,0 +1,32 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Lehmer's totient problem
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Lehmer%27s_totient_problem)
+-/
+
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/LehmerTotient.lean:24]:
```suggestion
```

File: FormalConjectures/Wikipedia/LehmerTotient.lean [hunk 5]
```diff
@@ -0,0 +1,32 @@
...
+
+/--
+Does there exist a composite number $n > 1$ such that Euler’s totient function $\varphi(n)$ divides $n - 1$?
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/LehmerTotient.lean]:
```suggestion
Does there exist a composite number $n > 1$ such that Euler’s totient function
$\varphi(n)$ divides $n - 1$?
```
We prefer to have lines less than 100 characters.

**Comment by exekis** [comment]
hi @callesonne really appreciate the changes! :)

**Review by Paul-Lez — APPROVED** [review]
Nice! Thanks for the PR @exekis !

**Comment by exekis** [comment]
@Paul-Lez of course! happy to contribute :)
